US04581352
Following the procedure of Example 1, 827 mg of α-methoxyimino-α-(5-chlorothieno[3,2-b]thien-2-yl)-acetic acid from Preparation 2 was reacted with oxalyl chloride to provide α-methoxyimino-α-(5-chlorothieno[3,2-b]thien-2-yl)acetyl chloride which was reacted with 642 mg of 7-amino-3-methyl-3-cephem-4-carboxylic acid silylated with 2.31 g of BSTFA. The reaction afforded 1.1 g of 7-[α-methoxyimino-α-(5-chlorothieno[3,2-b]thien-2-yl)acetamido]-3-methyl-3-cephem-4-carboxylic acid. The thienothienyl oxime was reacted with 544 mg of zinc dust in formic acid and methanol to provide 1.1 g of 7-(5-chlorothieno[3,2-b]thien-2-yl)glycylamido-3-methyl-3-cephem-4-carboxylic acid. Reverse phase high performance chromatography provided

reactant | α-methoxyimino-α-(5-chlorothieno[3,2-b]thien-2-yl)-acetic acid | 827 mg | CON=C(C(=O)O)C1=CC2=C(S1)C=C(S2)Cl | C9H6ClNO3S2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | α-methoxyimino-α-(5-chlorothieno[3,2-b]thien-2-yl)acetyl chloride | CON=C(C(=O)Cl)C1=CC2=C(S1)C=C(S2)Cl | C9H5Cl2NO2S2
